US06100293
To a suspension of 8.53 g (350 mmoles) of magnesium in 270 mL in dry tetrahydrofuran was added 50 g (270 mmol) of 1-bromo-2-ethylbenzene. The temperature was maintained at 50° C. during addition, then was heated under reflux. After 1 h, the solution was cooled to -78° C. under N2, and 54.42 g (324 mmoles) of allyl iodide was added dropwise. The mixture was allowed to warm to room temperature, stirred for an additional 2 h, then cooled to 0° C. The reaction was quenched by addtition of 2M HCl and 500 mL of ether and the layers were separated. The organic layer was washed with 30 mL of saturated NaHCO3 solution and brine, dried over MgSO4, and concentrated. The oily residue was filtered through silica gel with 20% ethyl acetate-hexane and the eluate was concentrated to afford the crude 1-allyl-2-ethylbenzene as a colorless oil.

reactant | magnesium | 350 mmoles, 8.53 g | [Mg] | Mg
reactant | 1-bromo-2-ethylbenzene | 270 mmol, 50 g | BrC1=C(C=CC=C1)CC | C8H9Br
reactant | allyl iodide | 324 mmoles, 54.42 g | C(C=C)I | C3H5I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-allyl-2-ethylbenzene | C(C=C)C1=C(C=CC=C1)CC | C11H14
